Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Augmentin / Sulfa (Sulfonamide Antibiotics) / latex / iodine
 
Attending: ___.
 
Chief Complaint:
"There's a tick between my throat, heart, and
ear."

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ hx BPAD I, UC s/p total colectomy, HTN, who presented to
BI ED with delusions, paranoia, and insomnia.

Per Initial Psychiatry ED Note: "On interview, patient relays a
long history of ___ disease and
multiple tick bites needing to be removed surgically (in back of
head, lower abdomen, and scrotum) which he attributes to working
as an ___ and a ___. He reports that around
___ he was in the ___ area and ordered a
chicken ___ salad from ___. He believes they
intentionally put a tick in the salad to poison him and since
then a tick has been lodged in his throat and/or L ear. He has
been staying a hotel that "is awesome" in ___ for
several days. Came to ___ for possible endoscopy to find the
tick in his throat.

He relays multiple times that he is an intelligent man and has
come to ___ to speak with intellectual people who will believe
him but when asked if he has been to other institutions that did
not believe, says no.

He reports that he has been traveling cross country for the past
6 months after leaving ___ where he had
enrolled in the fall to study physical education. He left after
about a month because of "kidney problems due to the heat" and
"hip problems" and "people doing drugs". He then drove to ___, then ___, and ___ looking for work in
___ staying in his car and hotels funded by his parents
when they sent him money. He believes that while in ___,
people doing heroin around him affected him because the fumes
went into the exhaust pipe of his car and "I get the effects". 
He
also states that when his parents state he is spending too much
money, he tries to stay in cheaper motels and there are people 
in
nearby rooms doing cocaine and "cocaine gets in my stomach and
causes my reflux to go up to my ear".

He states he was diagnosed with bipolar disorder in ___, "but 
it
was all financially driven". He reports getting in a fight with
his father over "abusive practices" which he describes as his
father only giving him $20 a day and in response he had to
"become a survival savage". In anger, he threw a bureau through 
a
wall. EMS was called. The next day, he was at the gym and his
wrist hurt so he brought himself to ___ in ___
for evaluation of his wrist and they admitted him to psychiatry.
There they "shot me up with Haldol". He describes being legally
committed to treatment while there and stayed for ~ 2 weeks. 

He states that ___ disease is a "histamine creator" and gives
him "neurologic stimulation". He believes his mother also has
___ disease because "her tone of voice is accelerated the way
mine was". States that he was treated for ___ disease in ___,
and he believes that his psychiatric symptoms were a result of
his ___ disease rather than bipolar illness. States he saw a
neurologist during this time who diagnosed him with "phase shift
disorder" and started him on Depakote which made him deaf after
two doses so he stopped taking it. Other symptoms of his ___
disease that he reports are apnea, "seizures on occasion" and
making him wake up early "to take pictures on the beach". These
have been relatively controlled and he believes he currently has
mild ___ disease.

He reports decreased sleep for the past two weeks though for the
past two days his sleep has been "awesome" because he is happy 
to
be back in ___. He reports elevated mood currently.
Denies racing thoughts. Denies AVH. 
Denies SI/HI."

ED Course: Did not require restraints, did not receive
medications.

On interview on ___, he reiterates the story as above,
focusing on paranoia regarding drug users and being poisoned 
with
a tick and his need to have a tick removed from his body. He is
pressured and tangential and denies any psychiatrically related
history immediately.
 
Past Medical History:
- Ulcerative colitis s/p total colectomy in ___ s/p stoma
reversal
- GERD
- HTN
- History of ___ disease
- Reports history of head trauma in fifth grade when he did a
trust fall at school and no one caught him and a concussion when
playing football in high school
- Reports history of "seizures on occasion" when he had ___
disease, but has not have seizures since and never required
prophylaxis

PAST PSYCHIATRIC HISTORY:
  - Prior diagnoses: bipolar disorder (made by Dr. ___
in ___, ___), OCD (per patient and his mother)
  - Hospitalizations: Multiple in ___ in ___. 
  - Current treaters and treatment: none
  - Medication and ECT trials: Haldol decanoate, saphris, Geodon 

  - Suicide attempts: denies
  - Self-injurious behavior: denies
  - Harm to others: denies
  - Access to weapons: denies
 
Social History:
SUBSTANCE ABUSE HISTORY:
  - Alcohol: denies
  - Tobacco: denies
  - Caffeine: denies
  - Other illicit substances and IVDU: denies

 FORENSIC HISTORY:
  - Arrests: denies
  - Convictions and jail terms: denies
  - Current status (pending charges, probation, parole): denies

SOCIAL HISTORY:
  -Born/Raised: Born in ___. Raised in ___. Has been traveling across the country in his car for at 
least
a year staying in hotels and his car intermittently.
  -Family/Support: Parents are married, live in ___. Have been
supporting him financially. Has one older brother ___ yo)
Mother is retired. Father and brother are ___
  -Relationship status/Children: Single, no children
  -Housing: Currently living in hotels and his car. No stable
housing
  -Education: Complete collage at ___, studied ___ 
___.
Went to ___ one year ago to study physical
education but only completed 6 weeks, then went to ___ but only completed 1 month. 
  -Employment/Income: None. Financially supported by parents
  -Spiritual: States yes, but does not specify
  -Trauma history: Reports "financial abuse" from parents as 
they
only intermittently pay for hotels for him. Reports being held 
at
gunpoint in ___ in ___. 
 
Family History:
FAMILY PSYCHIATRIC HISTORY:
  -History of psychiatric disorders: denies
  -History of suicide attempts/self-injurious behavior: denies
  -History of substance use: denies
  
 
Physical Exam:
VS:  98.6, 81, 107/67, 18, 95% RA
Gen: NAD, normal posture, well-nourished
HEENT: Sclera anicteric.
CV: Regular rate, +S1/ S2, no murmurs/rubs/gallops. 
Chest: Clear to auscultation bilaterally
Abdomen: Soft, non-tender, non-distended. 

Neuro:
Cranial Nerves: No facial asymmetry, no dysarthria, head turn 
and
shoulder shrug intact, pupils equal, tongue midline, visual
fields and EOM intact to navigating space and completing
paperwork.
Motor: Able to stand under her own strength, moves all
extremities against gravity
Coord: Fine directed movements intact without tremor or ataxia
Gait: Posture, stride, and arm-swing normal.

Neuropsychiatric Examination:
Behavior: cooperative/engaged; reduced eye contact while 
speaking
but otherwise appropriate eye contact
Mood and Affect: "annoyed but great" ; congruent, reactive,
euthymic, expansive, irritated
Thought process: Logical, tangential, no loosening of
associations. Does not appear to be responding to internal
stimuli.
Thought Content: No suicidal or homicidal/violent ideation. No
Auditory or Visual Hallucinations. Paranoia regarding other
people using drugs or poisoning him with ticks; delusions
regarding a tick that migrates between parts of his body.
Impulse control: fair
Insight: fair
Judgement: fair

Cognition:
Orientation: Full (Name, Place and Time/Date).
Attention: Intact to interview, but does not answer questions
clearly due to tangentiality
Memory: intact to history, recent events
Fund of knowledge: Average
Speech: Increased rate, normal rhythm, increased volume, normal
prosody, pressured but redirectable if frankly interrupted. Low
latency.
Language: Fluent ___ speaker without paraphasic errors

 
Pertinent Results:
___ 10:05PM   WBC-9.2 RBC-5.37 HGB-14.8 HCT-45.5 MCV-85 
MCH-27.6 MCHC-32.5 RDW-14.2 RDWSD-43.5
___ 10:05PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:05PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:05PM   NEUTS-65.2 ___ MONOS-8.1 EOS-1.2 
BASOS-0.3 IM ___ AbsNeut-6.00 AbsLymp-2.29 AbsMono-0.75 
AbsEos-0.11 AbsBaso-0.03
___ 10:05PM   PLT COUNT-252
___ 10:05PM   GLUCOSE-91 UREA N-17 CREAT-1.1 SODIUM-141 
POTASSIUM-3.7 CHLORIDE-107 TOTAL CO2-23 ANION GAP-15

___ 09:35AM   cTropnT-<0.01
___ 07:05PM BLOOD CK-MB-3 cTropnT-<0.01

See hospital course for EKG and ENT evaluation reports. 
 
Brief Hospital Course:
HOSPITAL COURSE SECTION OF DISCHARGE SUMMARY
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and then signed a 3 day notice on 
___. At the time of the expiration of his three day notice, he 
was not felt to be at any acute risk of harm to self or others, 
and has been able to care for his own basic needs in the 
community.
He was also placed on 15 minute checks status on admission and 
remained on that level of observation throughout while being 
unit restricted.

2. PSYCHIATRIC:
#) Schizoaffective Disorder
 Mr. ___ is a ___ y/o M with hx of BPAD, ulcerative colitis,
and HTN, who presented to BI ED with delusions, paranoia, and
insomnia concerning for mania. On interview he
expressed delusional thinking around the tick causing his health
problems and repeatedly requested medical evaluations, as well 
as some delusional thought content around the drug use of his 
neighbors at home and various states having more or less drug 
use than others. 
On admission, he was offered zyprexa 5 mg BID  with an Ativan 1 
mg Q6H PRN for anxiety/agitation, but he declined to take these. 
 
Throughout his admission, he was pleasant and cooperative, and 
did not display any impulsive or threatening behavior towards 
others. He was not felt to be at any acute risk of harm to 
himself or others either here or in the community and has shown 
himself to be capable of caring for his own basic needs in the 
community. The decision not to commit him was deliberated on at 
length by multiple members of the team. There was no 
disagreement that he was psychotic, and had self-presented for 
help. Suicidality was never an issue, and his judgement, while 
poor, was not putting him at imminent risk of harm.

3. SUBSTANCE USE DISORDERS:
#) Patient denied substance use disorders and utox, stox were 
negative on admission. 

4. MEDICAL
#) Acute Chest Pain
On ___ the patient noted severe chest pain which was left sided 
and associated with left sided numbness.  At that time, he was 
noted to be hypertensive to 164/102, which resolved on its own 
to 135/86 within a half hour prior to any intervention. Given 
concern for possible ACS, the patient received full dose aspirin 
and one time dose of nitroglycerin, with no improvement reported 
in pain. Troponins and CK-MB were drawn and were negative. 
Some PR interval depressions were noted on EKG done at that time 
which were possibly concerning for pericarditis given the 
patient's history of pericarditis per outside hospital records, 
though of note there were no ST segment changes and his EKG did 
not appear significantly different from his EKG on admission. At 
the advice of cardiology, colchicine 0.6 mg BID was offered as a 
preventative measure against future episodes of pericarditis, 
which the patient refused. It was not felt that this was an 
acute episode of pericarditis requiring further treatment, and 
the chest pain ultimately resolved on its own. 

#) Throat pain
ENT was called to evaluate the patient given his persistent 
reports of throat pain and a tick being stuck in his throat. 
ENT evaluated the patient (see exam report below) and noted 
small amount of arytenoid edema c/w GERD. They recommended 
Omeprazole 40 BID and follow up as outpatient in ___ clinic for 
reevaluation ___ weeks after discharge. The patient refused 
Omeprazole stating that it caused nausea, so protonix was 
instead offered. The patient stated he was not sure if he could 
take protonix due to the side effects requiring him to drink a 
lot of water with it, which he believed would be expensive. 

The full ENT Endoscopic Exam showed: 
"Nasal cavity with moist mucous membranes throughout
No mucopurulence noted from ___
Inferior turbinate with mild hypertrophy
Mild septal deviation
Nasopharynx without any masses or lesions, Fossa of ___
obliterated bilaterally with chronic scar
Base of tongue clear of any masses or lesions.
Supraglottic structures without significant erythema or edema.
Arytenoids with small amount of redundant tissue.
Epiglottis crisp and without significant erythema or edema.
Glottic airway widely patent.
True vocal cords mobile bilaterally without glottic gap.
Subglottis visualized without any masses or obstruction."

Impression: FOE unremarkable except for small amount
of arytenoid edema c/w GERD.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient rarely attended these groups that focused on teaching 
patients various coping skills given his reports of feeling too 
physically ill to do so. He spent a lot of time in his room but 
occasionally was seen in the milieu interacting with other 
patients, and was noted to often be eructating.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Records were obtained from ___ which showed a 
history of the patient presenting to the hospital for the 
evaluation of chest pain, thought to be manic, in ___. He was 
noted at that time to be delusional about drugs in his sinuses 
and ear wax. Cardiac workup was ultimately negative, though it 
was noted he had an EKG consistent with acute pericarditis in 
___. Psych consult done at that time showed that the 
patient had previously been on Risperdal and Geodon as well as 
Haldol dec, which per his mother he did not do well on.

Records were obtained from ___ from ___, which showed that the patient had been admitted to their 
___ facility after agitated behavior in the community, 
noted to have a history of ___ disease and ulcerative colitis 
that may have been caused by the side effects of Accutane use. 
He objected to psychiatric medications during that 
hospitalization given a 70 lb weight gain the last time he had 
been on medications. Reportedly he was a successful ___ 
until he developed bipolar disorder around age ___, around the 
same time as he was diagnosed with ___ disease which was 
treated with IV antibiotics.  

During this visit, SW spoke with the patient's mother, who also 
spoke about the patient's history of being a ___ 
until he was diagnosed with ___ disease after working in the 
___ and having been bitten by ticks x2 in ___.  He began 
exhibiting psychiatric symptoms in ___. He has been travelling 
around the country over the past ___ years (47/50 states) moving 
around based on concerns regarding tick exposure and drug use. 
His parents support him financially which has required the 
re-mortgaging of their house x3.  His mother also notes his 
colon had to be removed after a side effect of Accutane, and 
that in ___ the patient had a tick removed from his 
head.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Zyprexa, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and did not accept the medication. 

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself and/or others based upon 
static factors noted at that time including male gender, 
Caucasian race, single status,  chronic pain, and chronic 
medical illness as well as modifiable risk factors including 
psychosis, medication noncompliance, lack of engagement with 
outpatient treatment, limited social supports, and poor reality 
testing.  The modifiable risk factors were addressed during this 
admission by connecting the patient to outpatient medical 
providers (he refused to be connected to outpatient psychiatric 
providers, though contact information and additional resources 
were provided to him at the time of discharge), as well as 
through the provision of individual therapy aimed at improving 
insight. The patient was pleasant and cooperative throughout his 
stay and did not show any signs of unpredictable or aggressive 
behavior, and is being discharged with many protective risk 
factors, including help-seeking nature, future-oriented 
viewpoint,  no history of substance use disorder, no SI and no 
HI. Based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Pantoprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizoaffective Disorder

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Vitals - BP 108/69 HR 78 RR 18 O2 sat 93 
Mental Status Exam: 
  *Appearance: Appears stated age, in white T-shirt and hospital 
pants, prefers to be seen while lying in bed 
  Behavior: Pleasant, Cooperative with interview
  *Mood and Affect: 'Fine'/somewhat expansive
  *Thought process: Disorganized, tangential, with some loose
associations present
  *Thought Content: Does not endorse SI/HI or AVH. Has somatic 
delusions present around physical health and a spider living in 
his body leaving barbs, also states that in order to take 
protonix and avoid side effects he will need to spend a lot of 
money to buy water so he is not sure if he can afford it, also 
has delusions regarding the drug use habits of others
  *Judgment and Insight: limited/limited
  Cognition:
    *Attention, *orientation, and executive function: Attentive 
to
interview, oriented to self, place and date
    *Memory: Intact to recent and remote events
    *Fund of knowledge: Consistent with level of education
    *Speech: rapid rate, normal rhythm, loud volume. 
    *Language: Fluent ___ 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___